US04746657
8-[2-(2-Methyl-1-pyrrolidinyl)ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one
To a solution of 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one in ethanol was added 2-methylpyrrolidine. The solution is heated to reflux for several hours and ethanol is removed by evaporation. The residue is partitioned between dilute aqueous base and chloroform and the chloroform layer concentrated and the title compound isolated by an appropriate technique, e.g., distillation.

reactant | 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one | ClCCC1CC2=C(C(N(C1)C)=O)C=CC=N2 | C12H15ClN2O
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 8-[2-(2-Methyl-1-pyrrolidinyl)ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one | CC1N(CCC1)CCC1CC2=C(C(N(C1)C)=O)C=CC=N2 | C17H25N3O
